US07842696B2
A mixture of sodium cyano borohydride (100 mg, 1.6 mmol) and zinc chloride (100 mg, 0.73 mmol) was added in portions to a cold solution of 1-phenyl-1H-pyrazole-4-carbaldehyde (60 mg, 0.35 mmol) and 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (142 mg, 0.38 mmol) in methanol (10 ml) and stirring was continued at room temperature overnight. The reaction mixture was concentrated under reduced pressure to get the residue. The residue was quenched with saturated aqueous sodium bicarbonate solution and extracted with EtOAc. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by preparative HPLC [(Column-AU/SP/C18-28/006, mobile phase-0.1% TFA in water (A)/acetonitrile (B), flow: 6 mL/minute, gradient: (% B)-0:20; 2:30; 8:70)]) to afford 32 mg (18.8% yield) of 1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-[(1-phenyl-1H-pyrazol-4-ylmethyl)-amino]-ethanone. LCMS Purity: 98.11%. 1H NMR (DMSO-d6): δ 9.2 (s, 2H), 8.6 (d, 1H), 8.0-7.76 (m, 4H), 7.62 (m, 2H), 7.4 (t, 1H), 4.2-4.0 (d, 4H), 3.8 (s, 1H), 3.66-3.44 (m, 4H), 3.3 (d, 3H).

reactant | sodium cyano borohydride | 1.6 mmol, 100 mg | C(#N)[BH3-].[Na+]
reactant | 1-phenyl-1H-pyrazole-4-carbaldehyde | 0.35 mmol, 60 mg | C1(=CC=CC=C1)N1N=CC(=C1)C=O | C10H8N2O
reactant | 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.38 mmol, 142 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O
solvent | methanol | 10 ml | CO | CH4O
catalyst | zinc chloride | 0.73 mmol, 100 mg | [Cl-].[Zn+2].[Cl-]
product | 1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-[(1-phenyl-1H-pyrazol-4-ylmethyl)-amino]-ethanone | 32 mg, 18.8% yield | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNCC=2C=NN(C2)C2=CC=CC=C2)=O)C1)C(F)(F)F | C24H23F4N5O2
